Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left thumb infection
 
Major Surgical or Invasive Procedure:
Left thumb I&D
 
History of Present Illness:
___ RHD ___ only female with
PMHx of HTN and gout who presents to the ___ ED with left 
thumb
infection. Patient reports that she was cutting Shark/Fish ___
years ago when she accidentally cut her thumb. Since that time
she's experienced intermittent infections of her left thumb that
have been medically managed. Patient endorses that every summer
she experiences an infection and that she's been on oral
antibiotics courses x3 in the past (most recently prescribed
augmentin). She denies any IV courses of antibiotics. She denies
any recent trauma to her thumb that precipitated her current
presentation and states that her current presentation is the
worst her infection has ever been. She's had no systemic 
symptoms
that she can recall.
 
Past Medical History:
HTN, gout
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
L thumb: no purulent drainage from opening. packing changed at
bedside this AM. sensation intact on ulnar and radial aspects of
digit. well perfused. no proximal extension or signs of 
infection
 
Pertinent Results:
___ 06:15PM   GLUCOSE-99 UREA N-12 CREAT-0.9 SODIUM-145 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-23 ANION GAP-17
___ 06:15PM   estGFR-Using this
___ 06:15PM   CRP-0.9
___ 06:15PM   LACTATE-2.5*
___ 06:15PM   WBC-7.2 RBC-5.00 HGB-13.9 HCT-42.8 MCV-86 
MCH-27.8 MCHC-32.5 RDW-12.7 RDWSD-39.3
___ 06:15PM   NEUTS-71.0 LYMPHS-17.4* MONOS-8.1 EOS-2.1 
BASOS-1.1* IM ___ AbsNeut-5.14 AbsLymp-1.26 AbsMono-0.59 
AbsEos-0.15 AbsBaso-0.08
___ 06:15PM   PLT COUNT-294
 
Brief Hospital Course:
The patient was admitted to the ___ hand service on ___ and 
underwent operative washout of her left thumb by Dr. ___ on 
___. Her operative was done under MAC. She was then 
transitioned to the floor uneventfully. 

The patient did not require any pain medication postoperatively, 
although she was offered some.

The patient's vitals were routinely monitored per protocol.

The patient was started on a regular diet after her operation 
and she tolerated this well.

The patient was followed by the ID service during her hospital 
stay. She was kept on IV unasyn and was transitioned to 
augmentin at the time of discharge.

The patient ambulated frequently and did not require any DVT 
prophylaxis. 

On the day of discharge the patient was given explicit 
postoperative instructions regarding her dressing care. The 
patient's daughter was also given instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
4. Multivitamins 1 TAB PO DAILY 
5. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
6. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 
7. ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) 
DAILY:PRN 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4-6 hours Disp #*10 
Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*56 Tablet Refills:*1 
6.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
7.  Glucosamine (glucosamine sulfate) 500 mg oral DAILY  
8.  ketotifen fumarate 0.025 % (0.035 %) ophthalmic (eye) 
DAILY:PRN  
9.  Lisinopril 10 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left thumb infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Keep your thumb elevated as much as possible
-Continue your daily dressing care. Your dressing care regimen 
is daily packing of left thumb with iodoform or nu-gauze. Wrap 
with kling and ACE wrap.
-You may get your thumb wet. It's good to wash it daily with 
soap and water. 
-Continue taking your antibiotics for ___ weeks, as instructed 
by the infectious disease team. You will follow up with them in 
clinic to determine if a longer course of antibiotics is 
indicated.
 
Followup Instructions:
___